US06930120B2
2-(3,4-Dimethyl-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The representative parallel synthesis procedure (B) was used to prepare the title compound from 2-(3,4-dimethyl-phenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-phenyl-5-methyloxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 8.01-7.99 (m, 2H), 7.48-7.46 (m, 3H), 7.18 (d, 2H, J=8.8 Hz), 6.99 (d, 1H, J=8.4 Hz), 6.82 (d, 2H, J=8.4 Hz), 6.70 (d, 1H, J=2.0 Hz), 6.63 (dd, 1H, J=8.4, 2.0 Hz), 6.28 (bs, 1H), 4.22 (t, 2H, J=6.4 Hz), 3.22 and 3.11 (d of Abq, 2H, J=13.6 Hz), 3.06 (t, 2H, J=6.4 Hz), 2.42 (s, 3H), 2.19 (s, 3H), 2.18 (s, 3H), 1.39 (s, 3H). IR (KBr) 3100, 2950, 1772, 1611, 1512, 1177 cm−1. HRMS (ES+) m/z exact mass calcd for C30H32NO5 486.2280, found 486.2295.

reactant | 2-(3,4-dimethyl-phenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)C)C)=O | C20H24O4
reactant | toluene-4-sulfonic acid 2-(2-phenyl-5-methyloxazol-4-yl)-ethyl ester | C1(=CC=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H19NO4S
product | 2-(3,4-Dimethyl-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | CC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)C)C=CC1C | C30H31NO5
